US07799822B2
4-(4-((R)-2-(1H-Indol-1-yl)propanoyl)-3-methylpiperazin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide
Synthesized according to general procedure 9, method A. The reaction was set up with 0.1 mmol 4-(3-methylpiperazin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide, 0.1 μmol 2-(5-fluoro-1H-indol-1-yl)acetic acid, 0.1 μmol BOP reagent, 0.1 mmol triethylamine and DMF (300 μL). LC/MS (100%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=510.4; tR=3.08 min.

reactant | 4-(3-methylpiperazin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide | 0.1 mmol | CC1CN(CCN1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C14H18N4O2S2
reactant | 2-(5-fluoro-1H-indol-1-yl)acetic acid | 0.1 μmol | FC=1C=C2C=CN(C2=CC1)CC(=O)O | C10H8FNO2
reactant | BOP reagent | 0.1 μmol | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.1 mmol | C(C)N(CC)CC | C6H15N
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
solvent | DMF | 300 μL | CN(C)C=O | C3H7NO
product | 4-(4-((R)-2-(1H-Indol-1-yl)propanoyl)-3-methylpiperazin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide | N1(C=CC2=CC=CC=C12)[C@@H](C(=O)N1C(CN(CC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)C)C | C25H27N5O3S2
